US07544812B2
3-(4-{2-[1-(4-Fluoro-3-trifluoromethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid
NaH (9.2 mg, 0.23 mmol, 60% w/w in mineral oil) is added to a cooled (0° C.) solution of 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester (82.0 mg, 0.19 mmol) in DMF (1 ml). After 5 minutes, the reaction mixture is removed from the cooling bath and stirred while warming to ambient temperature over one hour. After the solution is cooled again to 0° C., 4-fluoro-3-(trifluoromethyl)benzyl bromide (148 mg, 0.57 mmol) is added in a single portion, the cooling bath removed, and the mixture stirred for one hour. The reaction mixture is quenched with 1N HCl and extracted with ethyl acetate (2×). The organic extracts were washed with water, brine, dried (Na2SO4), and concentrated to an oil. The crude product is dissolved in methanol (5 ml), treated with 5N NaOH (0.5 ml), and stirred for 18 hours at ambient temperature. After concentration to remove methanol, the residue is partitioned between diethyl ether and water. The aqueous layer is adjusted to pH 2 with conc. HCl, then extracted with ethyl acetate (2×15 ml). The combined ethyl acetate extracts were washed with water, brine, dried (Na2SO4), and concentrated to an oil which is purified by MS/LC to yield an oil (41 mg, 37%).

reactant | NaH | 0.23 mmol, 9.2 mg | [H-].[Na+]
reactant | 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 0.19 mmol, 82.0 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | 4-fluoro-3-(trifluoromethyl)benzyl bromide | 0.57 mmol, 148 mg | FC1=C(C=C(CBr)C=C1)C(F)(F)F | C8H5BrF4
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(4-{2-[1-(4-Fluoro-3-trifluoromethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid | 41 mg, 37% | FC1=C(C=C(CN2C(N(C(C2)CCOC2=CC=C(C=C2)CC(C(=O)O)(OC2=CC=CC=C2)C)C)=O)C=C1)C(F)(F)F | C30H30F4N2O5
